US04367335
Reaction of 3-(2-bromoethyl)-2,4-thiazolidinedione with 1-(3-chlorophenyl)piperazine according to the procedure of Example 1(c) affords 3-[2-[4-(3-CHLOROPHENYL)-1-PIPERAZINYL]ETHYL]-2,4-THIAZOLIDINEDIONE HYDROCHLORIDE, m.p. 210°-213° C., from ethanol (43% yield).

reactant | 3-(2-bromoethyl)-2,4-thiazolidinedione | BrCCN1C(SCC1=O)=O | C5H6BrNO2S
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 3-[2-[4-(3-CHLOROPHENYL)-1-PIPERAZINYL]ETHYL]-2,4-THIAZOLIDINEDIONE HYDROCHLORIDE | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCN1C(SCC1=O)=O | InChI=1S/C15H18ClN3O2S.ClH/c16-12-2-1-3-13(10-12)18-7-4-17(5-8-18)6-9-19-14(20)11-22-15(19)21;/h1-3,10H,4-9,11H2;1H
